US08222246B2
c) 6-[5-(tert-Butyl-dimethyl-silanyloxymethyl)-3-phenyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester
A solution of [5-(tert-butyl-dimethyl-silanyloxymethyl)-3-phenyl-isoxazol-4-yl]-methanol (4.09 g, 12.8 mmol) in THF (20 mL) was added dropwise to a suspension of sodium hydride (0.73 g of a 55% dispersion in mineral oil, 16.7 mmol). After stirring for 30 min at room temperature, the mixture was cooled in an ice bath and a solution of methyl 6-chloronicotinate (2.20 g, 12.8 mmol) in THF (20 mL) was added dropwise. The ice bath was removed and the reaction mixture was allowed to reach room temperature and was stirred for 2 h. After quenching with water and extractive workup (ethyl acetate/water) the organic phase was dried over sodium sulfate, filtered and concentrated. Chromatographic purification (silica, heptane:ethyl acetate=100:0 to 8:2) afforded the title compound as a colorless oil (2.76 g, 47%). MS: m/e=455.4 [M+H]+.

reactant | [5-(tert-butyl-dimethyl-silanyloxymethyl)-3-phenyl-isoxazol-4-yl]-methanol | 12.8 mmol, 4.09 g | C(C)(C)(C)[SiH2]OC(C1=C(C(=NO1)C1=CC=CC=C1)CO)(C)C | C17H25NO3Si
reactant | sodium hydride | [H-].[Na+]
reactant | methyl 6-chloronicotinate | 12.8 mmol, 2.20 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-[5-(tert-Butyl-dimethyl-silanyloxymethyl)-3-phenyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 2.76 g, 47% | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C(O[SiH2]C(C)(C)C)(C)C)C1=CC=CC=C1)=O | C24H30N2O5Si
